US04985444
A mixture of 3-[2-(3-ethoxycarbonylpropyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (13.7 g) and sodium hydroxide (2.73 g) in a mixture of water (8.6 ml) and methanol (96 ml) was refluxed for 2 hours and then the solvent was evaporated in vacuo. The residue was dissolved in water, and the aqueous solution was acidified with hydrochloric acid, and extracted with chloroform. The extract was dried over magnesium sulfate and the solvent was evaporated in vacuo. The residue was recrystallized from a mixture of ethanol and n-hexane to give 3-[2-(3-carboxypropyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (9.48 g).

reactant | 3-[2-(3-ethoxycarbonylpropyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 13.7 g | C(C)OC(=O)CCCN1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C23H22N4O3
reactant | sodium hydroxide | 2.73 g | [OH-].[Na+]
solvent | water | 8.6 ml | O | H2O
solvent | methanol | 96 ml | CO | CH4O
product | 3-[2-(3-carboxypropyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 9.48 g | C(=O)(O)CCCN1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C21H18N4O3
